US06951945B2
A solution of triphenylphosphine (194 mg, 0.74 mmol) in methylene chloride (3 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (132 mg, 0.74 mmol). The reaction mixture was stirred at 0° C. for 15 min and then treated with 3-cyclopentyl-2-(3-trifluoromethanesulfonyl-phenyl)-propionic acid (200 mg, 0.57 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. over 30 min. The reaction mixture was then treated with 2-aminothiazole (143 mg, 1.43 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was then directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) to afford pure 3-cyclopentyl-N-thiazol-2-yl-2(-4-trifluoromethanesulfonyl-phenyl)-propionamide (178 mg, 72%) as a light yellow foam: mp 61-64° C. (foam to gel); EI-HRMS m/e calcd for C18H19F3N2O3S2 (M+) 432.0789, found 432.0790.

reactant | triphenylphosphine | 0.74 mmol, 194 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.74 mmol, 132 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(3-trifluoromethanesulfonyl-phenyl)-propionic acid | 0.57 mmol, 200 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=CC=C1)S(=O)(=O)C(F)(F)F | C15H17F3O4S
reactant | 2-aminothiazole | 1.43 mmol, 143 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-N-thiazol-2-yl-2(-4-trifluoromethanesulfonyl-phenyl)-propionamide | 178 mg, 72% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C18H19F3N2O3S2
